US06699879B1
2-Methylamino-6-nitrobenzoxazole
2-Methylaminobenzoxazole (2.0 g, Hetzheim, Annemarie; Schlaak, G.; Kerstan, Christa., Pharmazie, (1987), 42, 80) was added in portions to conc. nitric acid (15 ml) at room temperature. Stirring was continued over 8 h. The reaction mixture was poured onto crushed ice/sodium hydrogen carbonate with vigorous stirring. The precipitated title compound (1.76 g) was collected by filtration and dried in vacuo at 40° C. m/z (API+): 194 (MH+).

reactant | 2-Methylaminobenzoxazole | 2.0 g | CNC=1OC2=C(N1)C=CC=C2 | C8H8N2O
reactant | nitric acid | 15 ml | [N+](=O)(O)[O-] | HNO3
product | 2-Methylamino-6-nitrobenzoxazole | CNC=1OC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C8H7N3O3
